US04732906
A mixture of 5,6-dihydroxy-3-phenyl-1,2-benzisoxazole (2.9 g), potassium carbonate (10.7 g) and methyl dichloroacetate (3.7 g) in 50 ml of N,N-dimethylformamide was stirred at 90°-100° C. for 2.5 hours. After cooling, water (50 ml) was added to the mixture followed by stirring it at 90°-100° C. for 40 minutes. After cooling and acidifying the mixture with hydrochloric acid, the mixture was extracted with ether. The ether layer was washed with water, dried and evaporated to remove the solvent. The residue was washed with methylene chloride, recrystallized from acetone/water to give 2.0 g of 3-phenyl-1,3-dioxolo[4,5-f]-1,2-benzisoxazole-6-carboxylic acid. m.p.: 202.5°-203.5° C.

reactant | 5,6-dihydroxy-3-phenyl-1,2-benzisoxazole | 2.9 g | OC=1C(=CC2=C(C(=NO2)C2=CC=CC=C2)C1)O | C13H9NO3
reactant | potassium carbonate | 10.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl dichloroacetate | 3.7 g | ClC(C(=O)OC)Cl | C3H4Cl2O2
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
product | 3-phenyl-1,3-dioxolo[4,5-f]-1,2-benzisoxazole-6-carboxylic acid | 2.0 g | C1(=CC=CC=C1)C1=NOC2=C1C=C1C(=C2)OC(O1)C(=O)O | C15H9NO5
